### PR TITLE
[Merged by Bors] - chore: remove some `backward.proofsInPublic` settings

### PR DESCRIPTION
**Pull request by Parcly-Taxel**

### CODE REVIEW

File: Mathlib/SetTheory/Descriptive/Tree.lean [hunk 1]
```diff
@@ -70,9 +70,9 @@ lemma take_mem {n : ℕ} (x : T) : x.val.take n ∈ T :=
 
 variable (T) (x y : List A)
 
-set_option backward.proofsInPublic true in
 /-- The residual tree obtained by regarding the node x as new root -/
-def subAt : tree A := ⟨(x ++ ·)⁻¹' T, fun _ _ _ ↦ mem_of_append (by rwa [List.append_assoc])⟩
+def subAt : tree A :=
```
Comment (grunweg) [inline Mathlib/SetTheory/Descriptive/Tree.lean:74]: This change seems reasonable to me...

File: Mathlib/Probability/Kernel/CondDistrib.lean [hunk 2]
```diff
@@ -204,9 +204,9 @@ lemma condDistrib_comp_self (X : α → β) {f : β → Ω} (hf : Measurable f)
 lemma condDistrib_self (Y : α → Ω) : condDistrib Y Y μ =ᵐ[μ.map Y] Kernel.id := by
   simpa using condDistrib_comp_self Y measurable_id
 
-set_option backward.proofsInPublic true in
 lemma condDistrib_const (X : α → β) (c : Ω) :
-    condDistrib (fun _ ↦ c) X μ =ᵐ[μ.map X] Kernel.deterministic (fun _ ↦ c) (by fun_prop) := by
+    condDistrib (fun _ ↦ c) X μ =ᵐ[μ.map X]
+      Kernel.deterministic (fun _ ↦ c) (@measurable_const _ _ _ mβ _) := by
```
Comment (grunweg) [inline Mathlib/Probability/Kernel/CondDistrib.lean]: I don't think this is a good change as-is: I'd much rather understand why `fun_prop` doesn't work here, than fix this by hitting it with some tactic.

**Review by grunweg — COMMENTED** [review]
Thanks for your PR. I like half of it, and think the second half is an opportunity to dig deeper.

File: Mathlib/Probability/Kernel/CondDistrib.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Mathlib/Probability/Kernel/CondDistrib.lean]: It may be because of the same changed auxiliary proofs problem in `to_additive` ([#mathlib4 > Mathlib dependencies (eg Aesop) @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Mathlib.20dependencies.20.28eg.20Aesop.29/near/564051988)). I am reverting this for now.

File: Mathlib/RingTheory/PicardGroup.lean [hunk 3]
```diff
@@ -370,11 +370,10 @@ instance (L) [AddCommMonoid L] [Module R L] [Module A L] [IsScalarTower R A L]
 
 variable [FaithfulSMul R A] [Free A (A ⊗[R] M)]
 
-set_option backward.proofsInPublic true in
 /-- An invertible `R`-module embeds into an `R`-algebra that `R` injects into,
 provided `A ⊗[R] M` is a free `A`-module. -/
 noncomputable def embAlgebra : M →ₗ[R] A :=
-  (free_iff_linearEquiv.mp ‹_›).some.restrictScalars R ∘ₗ
+  (free_iff_linearEquiv (R := A) (M := A ⊗[R] M).mp ‹_›).some.restrictScalars R ∘ₗ
```
Comment (grunweg) [inline Mathlib/RingTheory/PicardGroup.lean:376]: Do you need to specify R in addition to M?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean [hunk 4]
```diff
@@ -677,13 +677,12 @@ lemma connected_toSimpleGraph (C : ConnectedComponent G) : (C.toSimpleGraph).Con
...
-set_option backward.proofsInPublic true in
-/-- Given graph homomorphisms from each connected component of `G` to `H` this is the graph
-homomorphism from `G` to `H` -/
+/-- Given graph homomorphisms from each connected component of `G` to `H`, this is the graph
+homomorphism from `G` to `H`. -/
 @[simps]
 def homOfConnectedComponents (G : SimpleGraph V) {H : SimpleGraph V'}
     (C : (c : G.ConnectedComponent) → c.toSimpleGraph →g H) : G →g H where
-  toFun := fun x ↦ (C (G.connectedComponentMk _)) _
+  toFun := fun x ↦ (C (G.connectedComponentMk x)) ⟨x, ConnectedComponent.connectedComponentMk_mem⟩
```
Comment (grunweg) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean:685]: I don't love the long proof; can Lean figure out just that proof if you specify x (i.e., does this work)?
```suggestion
  toFun := fun x ↦ (C (G.connectedComponentMk x)) ⟨x, _⟩
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean [hunk 5]
```diff
@@ -372,11 +372,11 @@ lemma XYIdeal_mul_XYIdeal [DecidableEq F] {x₁ x₂ y₁ y₂ : F}
     C_simp
     ring1
 
-set_option backward.proofsInPublic true in
 /-- The non-zero fractional ideal `⟨X - x, Y - y⟩` of `F(W)` for some `x` and `y` in `F`. -/
 noncomputable def XYIdeal' {x y : F} (h : W.Nonsingular x y) :
     (FractionalIdeal W.CoordinateRing⁰ W.FunctionField)ˣ :=
-  Units.mkOfMulEqOne _ _ <| by
+  Units.mkOfMulEqOne (XYIdeal W x (C y))
+      (XYIdeal W x (C (W.negY x y)) * (↑(span {XClass W x}))⁻¹) <| by
```
Comment (grunweg) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean]: I think this version is much harder to read: while the use of the backwards option should be fixed, I'm not sure this is the right way. Feel free to revert this one for now, so we can land the rest.

File: Mathlib/Data/PFun.lean [hunk 6]
```diff
@@ -276,15 +276,14 @@ theorem fix_fwd_eq {f : α →. β ⊕ α} {a a' : α} (ha' : Sum.inr a' ∈ f a
...
-set_option backward.proofsInPublic true in
 /-- A recursion principle for `PFun.fix`. -/
 @[elab_as_elim]
 def fixInduction {C : α → Sort*} {f : α →. β ⊕ α} {b : β} {a : α} (h : b ∈ f.fix a)
     (H : ∀ a', b ∈ f.fix a' → (∀ a'', Sum.inr a'' ∈ f a' → C a'') → C a') : C a := by
   have h₂ := (Part.mem_assert_iff.1 h).snd
   generalize_proofs at h₂
   clear h
-  induction ‹Acc _ _› with | intro a ha IH => _
+  induction ‹Acc (Sum.inr · ∈ f ·) a› with | intro a ha IH => _
```
Comment (grunweg) [inline Mathlib/Data/PFun.lean:286]: This version is borderline-longer, but perhaps still ok

File: Mathlib/LinearAlgebra/Determinant.lean [hunk 7]
```diff
@@ -502,7 +501,7 @@ noncomputable def LinearMap.equivOfIsUnitDet
     have : Finite ι := Module.Finite.finite_basis b
     have : Fintype ι := Fintype.ofFinite ι
     have : DecidableEq ι := Classical.typeDecidableEq ι
-    exact LinearEquiv.ofIsUnitDet (by rwa [det_toMatrix b])
+    exact LinearEquiv.ofIsUnitDet (v := b) (v' := b) (f := f) (by rwa [det_toMatrix b])
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/Determinant.lean:504]: Do you need to specify all the arguments?

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! Many changes I like; sometimes I wish the new code were a bit more readable. A few questions to you, after that I'm ready to maintainer merge it.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean (hunk 4 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean:685]: No.

File: Mathlib/RingTheory/PicardGroup.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/RingTheory/PicardGroup.lean:376]: Yes.

File: Mathlib/LinearAlgebra/Determinant.lean (hunk 7 above)
Comment (Parcly-Taxel) [reply Mathlib/LinearAlgebra/Determinant.lean:504]: Yes.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean]: Done.

**Review by grunweg — COMMENTED** [review]
Thanks! I'd like another pair of eyes on the `ModuleCat` changes --- but to my eyes, everything looks fine.
maintainer merge?

File: Mathlib/Algebra/Category/ModuleCat/Basic.lean [hunk 8]
```diff
@@ -575,15 +575,10 @@ def ofHom₂ {M N P : ModuleCat.{u} R} (f : M →ₗ[R] N →ₗ[R] P) :
     M ⟶ of R (N ⟶ P) :=
   ofHom <| homLinearEquiv.symm.toLinearMap ∘ₗ f
 
-set_option backward.proofsInPublic true in
 /-- Turn a homomorphism into a bilinear map. -/
 @[simps!]
-def Hom.hom₂ {M N P : ModuleCat.{u} R}
-    -- We write `Hom` instead of `M ⟶ (of R (N ⟶ P))`, otherwise dot notation breaks
-    -- since it is expecting the type of `f` to be `ModuleCat.Hom`, not `Quiver.Hom`.
-    (f : Hom M (of R (N ⟶ P))) :
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/ModuleCat/Basic.lean:584]: @Parcly-Taxel Can you explain why this is no longer an issue?

Comment (Parcly-Taxel) [reply Mathlib/Algebra/Category/ModuleCat/Basic.lean:584]: Because dot notation works now.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
